US08536179B2
a) 6-(2-Dimethylamino-ethoxy)-1-isopropyl-1H-indole-4-carboxylic acid methyl ester
To a cooled (0° C.) mixture of 6-hydroxy-1-isopropyl-1H-indole-4-carboxylic acid methyl ester (700 mg, 3 mmol), 2-dimethylamino-ethanol (320 mg, 3.60 mmol) and PPh3 (948 mg, 3.60 mmol) in THF (10 mL) was added DEAD (620 mg, 3.60 mmol) and stirred for 16 h at RT. Reaction mixture was concentrated under reduced pressure and the residue was purified by column chromatography by eluting with 2% MeOH in chloroform to afford the title compound (550 mg, 60%) as colorless gum. LCMS (ES+): m/z=305.36 [M+H].

reactant | 6-hydroxy-1-isopropyl-1H-indole-4-carboxylic acid methyl ester | 3 mmol, 700 mg | COC(=O)C=1C=2C=CN(C2C=C(C1)O)C(C)C | C13H15NO3
reactant | 2-dimethylamino-ethanol | 3.60 mmol, 320 mg | CN(CCO)C | C4H11NO
reactant | PPh3 | 3.60 mmol, 948 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 3.60 mmol, 620 mg | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-(2-Dimethylamino-ethoxy)-1-isopropyl-1H-indole-4-carboxylic acid methyl ester | 550 mg, 60% | COC(=O)C=1C=2C=CN(C2C=C(C1)OCCN(C)C)C(C)C | C17H24N2O3
